US04927947
Ethyl 6-chloronicotinoate
A mixture of 15.75 g (0.1 mol) 6-chloronicotinic acid, 6.9 g (0.15 mol) ethanol, 22.7 g (0.11 mol) dicyclohexylcarbodiimide and 3.7 g dimethylaminopyridine, (0.03 mol), in 200 ml of methylene chloride was heated at reflux for 2 hours. The mixture was allowed to cool, solvent removed in vacuo and residue subjected to flash chromatography to give 16.7 g of the captioned compound as a low-melting white solid. PMR (CDCl3): δ1.44 (3H, t, J~6.2 Hz), 4.44 (2H, q, J~4.4 Hz), 7.44 (1H, d, J~8.1 Hz), 8.27 (1H, dd, J~8.1 Hz, 3 Hz), 9.02 (1H, d, J~3 Hz).

reactant | 6-chloronicotinic acid | 0.1 mol, 15.75 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | ethanol | 0.15 mol, 6.9 g | C(C)O | C2H6O
reactant | dicyclohexylcarbodiimide | 0.11 mol, 22.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylaminopyridine | 0.03 mol, 3.7 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 6-chloronicotinoate | 16.7 g | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
